US07846956B2
0.20 g of {5-[1-methyl-1-(2-propynyloxy)ethyl]isoxazol-3-yl}methanol was dissolved in 5 ml of dichloromethane, and 0.5 ml of thionyl chloride was then added. The mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure to obtain 0.21 g of 3-(chloromethyl)-5-[1-methyl-1-(2-propynyloxy)ethyl]isoxazole.

reactant | {5-[1-methyl-1-(2-propynyloxy)ethyl]isoxazol-3-yl}methanol | 0.20 g | CC(C)(OCC#C)C1=CC(=NO1)CO | C10H13NO3
reactant | thionyl chloride | 0.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-(chloromethyl)-5-[1-methyl-1-(2-propynyloxy)ethyl]isoxazole | 0.21 g | ClCC1=NOC(=C1)C(C)(OCC#C)C | C10H12ClNO2
